US06969716B2
5-(3-Bromo-4-fluorophenyl)-3-methylsulfanyl-[1,2,4]triazine was coupled to diethyl(3-pyridyl)borane by the method of Example 12 to give 5-[4-fluoro-3-(pyridin-3-yl)phenyl]-3-methylsulfanyl-[1,2,4]triazine as a yellow solid: δH (400 MHz, CDCl3) 2.74 (3H, s), 7.37-7.46 (2H, m), 7.91-7.95 (1H, m), 8.16-8.20 (1H, m), 8.30 (1H, dd, J 2.3, 7.4 Hz), 8.70 (1H, dd, J 1.4, 4.9 Hz), 8.86 (1H, s), 9.40 (1H, s); m/z (ES+) 299.

reactant | 5-(3-Bromo-4-fluorophenyl)-3-methylsulfanyl-[1,2,4]triazine | BrC=1C=C(C=CC1F)C=1N=C(N=NC1)SC | C10H7BrFN3S
reactant | diethyl(3-pyridyl)borane | C(C)B(C=1C=NC=CC1)CC | C9H14BN
product | 5-[4-fluoro-3-(pyridin-3-yl)phenyl]-3-methylsulfanyl-[1,2,4]triazine | FC1=C(C=C(C=C1)C=1N=C(N=NC1)SC)C=1C=NC=CC1 | C15H11FN4S
